US06365584B1
b) N-{3-nitro-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide
N-{4-fluoro-3-nitro-phenyl}-benzenesulphonamide (3.0 g, 10 mmol), 3,5-bis-trifluoromethylbenzylamine (3.0 g, 12.5 mmol) and N-methylmorpholine (2.2 mL, 20 mmol) in 25 mL dimethylsulphoxide are kept for 6 h at 60-100° C., diluted with 150 mL ethyl acetate, washed with water, dilute hydrochloric acid and water again, dried and concentrated by evaporation until not quite dry. The residue is combined with 80 mL EtOH and evaporated down to a residual volume of about 50 mL. The crystals precipitated after cooling are filtered off and washed with EtOH and petroleum ether.

reactant | N-{4-fluoro-3-nitro-phenyl}-benzenesulphonamide | 10 mmol, 3.0 g | FC1=C(C=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)[N+](=O)[O-] | C12H9FN2O4S
reactant | 3,5-bis-trifluoromethylbenzylamine | 12.5 mmol, 3.0 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | N-methylmorpholine | 20 mmol, 2.2 mL | CN1CCOCC1 | C5H11NO
solvent | dimethylsulphoxide | 25 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | N-{3-nitro-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide | [N+](=O)([O-])C=1C=C(C=CC1NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC=CC=C1 | C21H15F6N3O4S
